US05347039
By carrying out the reaction as in Example 9 but starting from 1.0 g of t-butyl 7-phenyl-5-hydroxy-3-oxo-6-heptenoate (3.42 mmol) and using 0.95 cm3 of titanium chloride triisopropoxide (3.77 mmol) and 261.8 mg of sodium cyanoborohydride (3.95 mmol), there is obtained, after reacting for 3 hours 10 minutes, with a yield of 55%, 550 mg of t-butyl 7-phenyl-3,5-dihydroxy-6-heptenoate for which the syn/anti ratio is equal to 90/10.

reactant | t-butyl 7-phenyl-5-hydroxy-3-oxo-6-heptenoate | 3.42 mmol, 1.0 g | C1(=CC=CC=C1)C=CC(CC(CC(=O)OC(C)(C)C)=O)O | C17H22O4
reactant | sodium cyanoborohydride | 3.95 mmol, 261.8 mg | C(#N)[BH3-].[Na+]
catalyst | titanium chloride triisopropoxide | 3.77 mmol, 0.95 cm3 | CC([O-])C.CC([O-])C.CC([O-])C.[Cl-].[Ti+4]
product | t-butyl 7-phenyl-3,5-dihydroxy-6-heptenoate | 550 mg, yield of 55% | C1(=CC=CC=C1)C=CC(CC(CC(=O)OC(C)(C)C)O)O | C17H24O4
